US06136823
Synthesis of 6,7-Difluoro-1-(4-fluoro-3-hydroxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Ethyl 6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (2.3 g) was added to a mixed liquid (1:1, v/v; :30 ml) of 47% hydrobromic acid and acetic acid, and the mixture was stirred and refluxed for 44 hours. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (1.65 g) as a colorless powder.

reactant | Ethyl 6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2.3 g | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1=CC(=C(C=C1)F)OC)C(=O)OCC)=O | C20H16F3NO4
reactant | hydrobromic acid | 30 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,7-Difluoro-1-(4-fluoro-3-hydroxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 1.65 g | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1=CC(=C(C=C1)F)O)C(=O)O)=O | C17H10F3NO4
